US06541591B2
Synthesis of 2-(1-naphthyloxy)-1-ethyl acrylate (1-NOEA):
The reaction was then cooled to room temperature and 1470 grams tert-butyl methyl ether and 56 grams triethylamine were added. 0.15 gram hydroquinone and 0.15 gram hydroquinone monomethyl ether were added as inhibitors. To the well-stirred reaction, 289 grams acryloyl chloride was added over a 2-4 hour period, keeping the batch temperature between 25-30° C. The batch was stirred with medium agitation at room temperature for one hour after completing the addition. A sample was taken and GC run to determine reaction completion (<1% residual 2-(1-naphthyloxy)-1-ethanol).

reactant | hydroquinone | 0.15 gram | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | hydroquinone monomethyl ether | 0.15 gram | COC1=CC=C(O)C=C1 | C7H8O2
reactant | acryloyl chloride | 289 grams | C(C=C)(=O)Cl | C3H3ClO
reactant | 2-(1-naphthyloxy)-1-ethanol | C1(=CC=CC2=CC=CC=C12)OCCO | C12H12O2
solvent | triethylamine | 56 grams | C(C)N(CC)CC | C6H15N
solvent | tert-butyl methyl ether | 1470 grams | COC(C)(C)C | C5H12O
product | 2-(1-naphthyloxy)-1-ethyl acrylate | C(C=C)(=O)OCCOC1=CC=CC2=CC=CC=C12 | C15H14O3
